US07612114B2
4-{2-[5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamino]ethyl}phenol
Synthesized from 2-(4-benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide according to an analogous synthetic method to Example 337, [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (2.3 g) was used according to an analogous synthetic method to Example 22 to provide the title compound (1.9 g).

reactant | 2-(4-benzyloxyphenyl)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H33NO4
reactant | [2-(4-benzyloxyphenyl)ethyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 2.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C33H35NO3
product | 4-{2-[5-Methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamino]ethyl}phenol | 1.9 g | COC=1C=CC(=C(C1)NCCC1=CC=C(C=C1)O)C1CC2=CC=C(C=C2CC1)OC | C26H29NO3
